US07943607B2
3-[(1-Methylethyl)oxy]-5-[(4-methyl-5-oxo-2,3,4,5-tetrahydro-1,4-benzoxazepin-8-yl)oxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide
To a solution of 3-[(9-chloro-4-methyl-5-oxo-2,3,4,5-tetrahydro-1,4-benzoxazepin-8-yl)oxy]-5-[(1-methylethyl)oxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide (160 mg, 0.32 mmol) in ethanol (3 mL) was added ammonium formate (208 mg, 10 equivs) in one portion. The reaction was blanketed with argon and 10% Palladium on carbon (40 mg) was added. The mixture was heated to 140° C. for 10 minutes in a Smith Creator microwave. The reaction mixture was filtered through diatomaceous earth and the filter pad was washed well with ethyl acetate. The filtrate was concentrated in vacuo and the residue purified by chromatography on alumina, eluting with 50-100% ethyl acetate in hexanes, to afford the title compound as a colourless oil which foamed under high vacuum (65 mg).

reactant | 3-[(9-chloro-4-methyl-5-oxo-2,3,4,5-tetrahydro-1,4-benzoxazepin-8-yl)oxy]-5-[(1-methylethyl)oxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 0.32 mmol, 160 mg | ClC1=C(C=CC=2C(N(CCOC21)C)=O)OC=2C=C(C(=O)NC1=NN(C=C1)C)C=C(C2)OC(C)C | C24H25ClN4O5
reactant | ammonium formate | 208 mg | C(=O)[O-].[NH4+]
solvent | ethanol | 3 mL | C(C)O | C2H6O
catalyst | Palladium on carbon | 40 mg | [Pd] | Pd
product | 3-[(1-Methylethyl)oxy]-5-[(4-methyl-5-oxo-2,3,4,5-tetrahydro-1,4-benzoxazepin-8-yl)oxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide | CC(C)OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)OC1=CC2=C(C(N(CCO2)C)=O)C=C1 | C24H26N4O5
